US06809097B1
5-((3-Benzyloxy-4-cyanoanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (6 g, 15.9 mmol) was suspended in DOWTHERM A, (trade mark of Fluka Chemie AG), (100 ml) and heated to 190° C. The mixture was stirred for 1 hour at 190° C. Upon cooling to ambient temperature the product precipitated out. Ether (125 ml) was added and the suspension was stirred for 30 minutes. The product was collected by filtration, washed with ether and dried under vacuum to give 7-benzyloxy-6-cyano-1,4-dihydroquinolin-4-one (3.5 g) which was used without further purification in the next step.

reactant | 5-((3-Benzyloxy-4-cyanoanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 15.9 mmol, 6 g | C(C1=CC=CC=C1)OC=1C=C(NC=C2C(OC(OC2=O)(C)C)=O)C=CC1C#N | C21H18N2O5
solvent | DOWTHERM A | 100 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 7-benzyloxy-6-cyano-1,4-dihydroquinolin-4-one | 3.5 g | C(C1=CC=CC=C1)OC1=C(C=C2C(C=CNC2=C1)=O)C#N | C17H12N2O2
